US07939527B2
1-{1-[4-([1,3]Thiazolo[5,4-b]pyridin-2-yloxy)benzyl]piperidin-4-yl}pyrrolidin-2-one
To a solution of 2-[4-(chloromethyl)phenoxy][1,3]thiazolo[5,4-b]pyridine hydrochloride (70 mg, 0.223 mmol) and 1-piperidin-4-yl-pyrrolidin-2-one (64 mg, 0.379 mmol, 1.7 equiv.) in CH3CN (1.3 mL) was added Et3N (110 μL, 0.759 mmol, 3.4 equiv.). The reaction was allowed to stir at 60° C. for 6 h. The solution was cooled to rt, filtered and purified using preparative reverse phase HPLC to afford the desired product as a cream-colored solid (52 mg, 57%). 1H NMR (600 MHz, DMSO-d6): 8.45 (dd, J=4.7, 1.5, 1H), 8.09 (dd, J=8.1, 1.5, 1H), 7.50 (dd, J=8.2, 4.8, 1H), 7.47-7.40 (m, 4H), 3.80-3.69 (m, 1H), 3.52 (s, 2H), 3.35-3.29 (m, 2H), 2.91-2.85 (m, 2H), 2.20 (t, J=8.1, 2H), 2.07-2.00 (m, 2H), 1.94-1.85 (m, 2H), 1.73-1.62 (m, 2H), 1.54-1.48 (m, 2H). MS (ESI): mass calcd. for C22H24N4O2S, 408.16; m/z found, 409.2 [M+H]+.

reactant | 2-[4-(chloromethyl)phenoxy][1,3]thiazolo[5,4-b]pyridine hydrochloride | 0.223 mmol, 70 mg | Cl.ClCC1=CC=C(OC=2SC3=NC=CC=C3N2)C=C1
reactant | 1-piperidin-4-yl-pyrrolidin-2-one | 0.379 mmol, 64 mg, 1.7 equiv. | N1CCC(CC1)N1C(CCC1)=O | C9H16N2O
reactant | Et3N | 0.759 mmol, 110 μL, 3.4 equiv. | CCN(CC)CC | C6H15N
solvent | CH3CN | 1.3 mL | CC#N | C2H3N
product | 1-{1-[4-([1,3]Thiazolo[5,4-b]pyridin-2-yloxy)benzyl]piperidin-4-yl}pyrrolidin-2-one | 52 mg, 57% | N1=C(SC2=NC=CC=C21)OC2=CC=C(CN1CCC(CC1)N1C(CCC1)=O)C=C2 | C22H24N4O2S
